US06169107A
Using 1.40 g (5.78 mmol) of 4-benzyloxy-2-methylbenzoic acid, 1.37 g (11.6 mmol) of thionyl chloride and 50 ml of methanol, the reaction was carried out in a manner similar to Reference Example 6 to obtain 0.77 g of methyl 4-benzyloxy-2-methylbenzoate.

reactant | 4-benzyloxy-2-methylbenzoic acid | 5.78 mmol, 1.40 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)C | C15H14O3
reactant | thionyl chloride | 11.6 mmol, 1.37 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | methyl 4-benzyloxy-2-methylbenzoate | 0.77 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)C | C16H16O3
